US08791107B2
PREPARATION x79: (R)-2-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-N-methyl-N-((tetrahydro-2H-pyran-4-yl)methyl)acetamide
Sodium hydride (60% in oil) (12.57 mg, 0.314 mmol) was added to a suspension of (R)-2-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-N-((tetrahydro-2H-pyran-4-yl)methyl)acetamide (PREPARATION x26, 100 mg, 0.262 mmol) in DMF (1 mL) at 0° C. The resultant mixture was stirred at room temperature for 30 minutes. Methyl iodide (0.021 mL, 0.340 mmol) was added to the reaction mixture at room temperature, and the resultant mixture was stirred at room temperature for 15 minutes. After addition of EtOAc, the resultant mixture was washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was washed with EtOAc to afford the title compound as a white solid (73 mg, 70.4%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.04-1.38 (m, 2H), 1.48 (d, J=11.12 Hz, 2H), 1.75-1.99 (m, 1H), 2.80-3.01 (m, 4H), 3.09-3.31 (m, 7H), 3.40-3.64 (m, 2H), 3.79-4.06 (m, 5H), 4.17-4.27 (m, 1H), 4.34-4.44 (m, 1H), 7.12-7.29 (m, 1H); ESI-MS m/z [M+H]+ calc'd for C18H26ClN5O3, 396.18. found 396.3.

reactant | Sodium hydride | 0.314 mmol, 12.57 mg | [H-].[Na+]
reactant | (R)-2-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-N-((tetrahydro-2H-pyran-4-yl)methyl)acetamide | 0.262 mmol, 100 mg | ClC1=NC=2N3[C@H](CN(C2C=N1)CC(=O)NCC1CCOCC1)COCC3 | C17H24ClN5O3
reactant | Methyl iodide | 0.340 mmol, 0.021 mL | CI | CH3I
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-2-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-N-methyl-N-((tetrahydro-2H-pyran-4-yl)methyl)acetamide | 73 mg, 70.4% | ClC1=NC=2N3[C@H](CN(C2C=N1)CC(=O)N(CC1CCOCC1)C)COCC3 | C18H26ClN5O3
